US05134142
A mixture of 5-[4-(methylsulfonyl)phenyl]-1-(4-nitrophenyl)pyrazole-3-carbonitrile (1.1 g), iron powder (1.1 g) and ammonium chloride (0.11 g) in ethanol (20 ml) and water (7 ml) was refluxed for 1 hour. The solvent was evaporated, and the residue was filtered, washed with water and dissolved in hot ethyl acetate. The solution was filtered and the filtrate was concentrated. The residue obtained was recrystallized from ethyl acetate to give crystals of 1-(4-aminophenyl)-5-[4-(methylsulfonyl)phenyl]pyrazole-3-carbonitrile (0.83 g).

reactant | 5-[4-(methylsulfonyl)phenyl]-1-(4-nitrophenyl)pyrazole-3-carbonitrile | 1.1 g | CS(=O)(=O)C1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)[N+](=O)[O-])C#N | C17H12N4O4S
reactant | ammonium chloride | 0.11 g | [Cl-].[NH4+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 7 ml | O | H2O
catalyst | iron | 1.1 g | [Fe] | Fe
product | 1-(4-aminophenyl)-5-[4-(methylsulfonyl)phenyl]pyrazole-3-carbonitrile | 0.83 g | NC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)C#N | C17H14N4O2S
